US05654431
N-(t-Butyloxycarbonyl)-1-bromo-3-propylamine
To a stirred solution of 1-bromo-3-propylamine hydrobromide (5 g, 22.84 mmol) in chloroform (150 mL) at 0° C. was added saturated aqueous sodium carbonate (100 mL) and di-t-butyl dicarbonate (4.9 g, 22.84 mmol) and the resulting mixture was warmed to room temperature and stirred for 4 hours. The aqueous layer was separated and extracted with dichloromethane (2×100 mL) and the combined organic layers were washed with brine (2×100 mL), dried over sodium sulfate and evaporated to dryness under reduced pressure. Silica gel chromatography using ethyl acetate/hexanes (1:9) provided the title compound as a colorless oil (5.6 g, 90%).

reactant | 1-bromo-3-propylamine hydrobromide | 22.84 mmol, 5 g | Br.BrCCCN
reactant | sodium carbonate | 100 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | di-t-butyl dicarbonate | 22.84 mmol, 4.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | N-(t-Butyloxycarbonyl)-1-bromo-3-propylamine | 5.6 g, 90% | C(C)(C)(C)OC(=O)NCCCBr | C8H16BrNO2
